US07572797B2
1-(2-Methoxyethyl)-1H-pyrazole-3-carboxylic acid
Ethyl 1-(2-methoxyethyl)-1H-pyrazole-3-carboxylate (Preparation 28, 360 mg, 1.8 mmol) was dissolved in ethanol (6 ml), a solution of sodium hydroxide (90 mg, 2.3 mmol) in water (3 ml) was added and the solution was stirred at room temperature for 3 hours. The ethanol was removed in vacuo and the residue was acidified with 2M HCl (approximately 1.5 ml), the aqueous solution was evaporated to dryness in vacuo and the residue was extracted with a mixture of dichloromethane (15 ml) and 3 drops of methanol. The mixture was filtered to remove the inorganics and the solvent removed in vacuo to give 310 mg of a yellow oil which crystallized on standing.

reactant | Ethyl 1-(2-methoxyethyl)-1H-pyrazole-3-carboxylate | 1.8 mmol, 360 mg | COCCN1N=C(C=C1)C(=O)OCC | C9H14N2O3
reactant | sodium hydroxide | 2.3 mmol, 90 mg | [OH-].[Na+]
solvent | ethanol | 6 ml | C(C)O | C2H6O
solvent | water | 3 ml | O | H2O
product | 1-(2-Methoxyethyl)-1H-pyrazole-3-carboxylic acid | 310 mg | COCCN1N=C(C=C1)C(=O)O | C7H10N2O3
